US05123954
Synthesis of N-(2-butenyl)-N-(3-trifluoromethylphenyl)amine:
1.4 g of anhydrous potassium carbonate and 1.0 g of 1-chloro-2-butene were added to 1.6 g of 3-aminobenzotrifluoride in 30 ml of dimethylformamide, followed by stirring at 70°-90° C. for 2 hours. Potassium carbonate was then removed by filtration, and 100 ml of an aqueous saturated sodium chloride solution were added and extraction was then carried out with toluene. After drying over anhydrous sodium sulfate, the solvent was distilled off, and silica gel chromatography was then done to obtain 1.4 g of the desired compound.

reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-2-butene | 1.0 g | ClCC=CC | C4H7Cl
reactant | 3-aminobenzotrifluoride | 1.6 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(2-butenyl)-N-(3-trifluoromethylphenyl)amine | 1.4 g | C(C=CC)NC1=CC(=CC=C1)C(F)(F)F | C11H12F3N
